US04012392
1-Benzyl-3,3-dimethyl-4-ethyl-2-(p-methoxybenzyl)-4-piperidinol hydrochloride
In a manner similar to the method described in example 47, 5 g of 1-benzyl-3,3-dimethyl-2-(p-methoxybenzyl)-4-piperidone is reacted with acetylene lithium (prepared from 1 g of lithium in 75 ml of liquid ammonia). The crude product from this reaction is reduced catalytically as described before, leading to the above-mentioned compound which is secured as the hydrochloride. Yield 55%. Melting point 171° - 172° C with decomposition.

reactant | 1-benzyl-3,3-dimethyl-2-(p-methoxybenzyl)-4-piperidone | 5 g | C(C1=CC=CC=C1)N1C(C(C(CC1)=O)(C)C)CC1=CC=C(C=C1)OC | C22H27NO2
reactant | acetylene lithium | 75 ml, 1 g | [Li].C#C
reactant | hydrochloride | Cl | ClH
product | 1-Benzyl-3,3-dimethyl-4-ethyl-2-(p-methoxybenzyl)-4-piperidinol hydrochloride | Yield 55% | Cl.C(C1=CC=CC=C1)N1C(C(C(CC1)(O)CC)(C)C)CC1=CC=C(C=C1)OC | InChI=1S/C24H33NO2.ClH/c1-5-24(26)15-16-25(18-20-9-7-6-8-10-20)22(23(24,2)3)17-19-11-13-21(27-4)14-12-19;/h6-14,22,26H,5,15-18H2,1-4H3;1H
